US08558000B2
To a reactor was added 10 g of 3-Chloro-N-(diphenylmethylene)-4-(2-fluoro-4-nitrophenoxy)pyridin-2-amine, 1.4 g of Ra-Nickel (type A-5001 from Johnson Matthay) and 100 mL of Me-THF. The reactor was inerted by three nitrogen/hydrogen swings, then pressurized to 25 psig with hydrogen. The reaction mixture was stirred under 25 psig of hydrogen at 25° C. until the hydrogen uptake ceased (1.6 L consumed) and the reaction was judged complete by HPLC. BuOAc (50 mL) was added to the reaction mixture and MeTHF was distilled off under atmospheric pressure until <1% of Me-THF were detected by GC. Maintaining a batch temperature of 90° C., heptane (50 mL) was added over 20 min. The solution was then allowed to cool to room temperature over 8 hrs. The solids were filtered off and the cake was washed with 50 mL heptane. The solid was dried in a vacuum oven at 60° C. for 12 hr to afford 4-(4-Amino-2-fluorophenoxy)-3-chloro-N-(diphenylmethylene)pyridin-2-amine (8.88 g; 95% yield) as a light yellow crystalline solid.

reactant | 3-Chloro-N-(diphenylmethylene)-4-(2-fluoro-4-nitrophenoxy)pyridin-2-amine | 10 g | ClC=1C(=NC=CC1OC1=C(C=C(C=C1)[N+](=O)[O-])F)N=C(C1=CC=CC=C1)C1=CC=CC=C1 | C24H15ClFN3O3
reactant | nitrogen hydrogen | N#N.[H][H]
reactant | hydrogen | [H][H] | H2
catalyst | Nickel | [Ni] | Ni
product | 4-(4-Amino-2-fluorophenoxy)-3-chloro-N-(diphenylmethylene)pyridin-2-amine | 8.88 g, 95% yield | NC1=CC(=C(OC2=C(C(=NC=C2)N=C(C2=CC=CC=C2)C2=CC=CC=C2)Cl)C=C1)F | C24H17ClFN3O
